US04839365
To 44.0 mg (1.10 mmol) of 60% NaH were added 7 ml of dry DMF and 299.2 mg (1.00 mmol) of 2-[(thieno[2, 3-c]pyridin-7-yl)methylthio]benzimidazole. 1/10 H2O (Ia-1). After stirring for 10 min. at room temperature, the solution was added with 130.2 mg (1.20 mmol) of ClCOOEt and stirred for 30 minutes at room temperature. DMF was evaporated under reduced pressure. Water was added to the residue, and the solution was extracted with CH2Cl2. After drying over anhydrous sodium sulfate, the solvent was evaporated under reduced pressure, whereby 381.0 mg of pale greenish yellow cyrstals were obtained. After being subjected to silica gel column chromatography, the crystals were dispersed with 2 ml of ether, followed by filtration and washed with ether, whereby 335.7 mg (Yield : 90.9%) of the objective compound, 1-ethoxycarbonyl-2-[(thieno[2, 3-c]pyridin-7-yl)methylthio]benzimidazole (Ib-1) was obtained as crystals.

reactant | NaH | 1.10 mmol, 44.0 mg | [H-].[Na+]
reactant | DMF | 7 ml | CN(C)C=O | C3H7NO
reactant | 2-[(thieno[2, 3-c]pyridin-7-yl)methylthio]benzimidazole | 1.00 mmol, 299.2 mg | S1C=CC=2C1=C(N=CC2)CSC=2NC1=C(N2)C=CC=C1 | C15H11N3S2
reactant | ClCOOEt | 1.20 mmol, 130.2 mg | ClC(=O)OCC | C3H5ClO2
solvent | ether | 2 ml | CCOCC | C4H10O
solvent | H2O | O | H2O
product | 1-ethoxycarbonyl-2-[(thieno[2, 3-c]pyridin-7-yl)methylthio]benzimidazole | C(C)OC(=O)N1C(=NC2=C1C=CC=C2)SCC=2N=CC=C1C2SC=C1 | C18H15N3O2S2
